US06414011B1
2-[4-(4-Fluorophenoxy)phenyl]oxazole-4-carboxamide
N-[4-(4-Fluorophenoxy)benzoyl]-L-serine methyl ester. To an ice cold solution of 4-(4-fluorophenoy)benzoic acid (0.79 g, 3.4 mmol), L-serine methyl ester hydrochloride (0.59 g, 3.7 mmol), and a 1-hydroxybenzotriazole hydrate (0.57 g, 3.7 mmol) in DMF (20 mL) was added N-methylmorpholine (82 mL, 7.4 mmol), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.72 g, 3.7 mmol). The resulting solution was allowed to warm to room temperature overnight and was then partitioned between water and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate and the combined ethyl acetate layers were washed with water (3×), dried over sodium sulfate, filtered, and evaporated under reduced pressure to give the desired product as an oil. 1H NMR (DMSO-d6): 8.51 (d, J=7.5 Hz, 1H), 7.92 (d, J=8.7 Hz, 2H), 7.28 (t, J=8.4 Hz, 2H), 7.18-7.13 (m, 2H), 7.04 (d, J=9.0 Hz, 2H), 5.06 (t, J=6.3 Hz, 1H), 4.53 (q, J=7.8 Hz, 1H), 3.79 (t, J=5.4 Hz, 2H), 3.71 (s, 3H).

reactant | N-[4-(4-Fluorophenoxy)benzoyl]-L-serine methyl ester | COC([C@@H](NC(C1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O)CO)=O | C17H16FNO5
reactant | L-serine methyl ester hydrochloride | 3.7 mmol, 0.59 g | Cl.COC([C@@H](N)CO)=O
reactant | 1-hydroxybenzotriazole hydrate | 3.7 mmol, 0.57 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 7.4 mmol, 82 mL | CN1CCOCC1 | C5H11NO
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 3.7 mmol, 0.72 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4-Fluorophenoxy)phenyl]oxazole-4-carboxamide | FC1=CC=C(OC2=CC=C(C=C2)C=2OC=C(N2)C(=O)N)C=C1 | C16H11FN2O3
